US06348474B1
5-(4-Cyanophenylamino)methylidene-2,2-dimethyl-1,3-dioxane-4,6-dione
A mixture of p-aminobenzonitrile (2.00 g), Meldrum's acid (2.56 g), ethyl orthoformate (2.76 g) and ethanol (10 ml) was heated at 120° C. (bath temperature) to evaporate the ethanol. Ethyl acetate was added to the obtained orange solid. The solid was pulverized, collected by filtration and washed with ethyl acetate to give the object compound (3.28 g) as a white powder.

reactant | p-aminobenzonitrile | 2.00 g | NC1=CC=C(C#N)C=C1 | C7H6N2
reactant | Meldrum's acid | 2.56 g | CC1(OC(=O)CC(=O)O1)C | C6H8O4
reactant | ethyl orthoformate | 2.76 g | C(OCC)([O-])[O-]
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 5-(4-Cyanophenylamino)methylidene-2,2-dimethyl-1,3-dioxane-4,6-dione | 3.28 g | C(#N)C1=CC=C(C=C1)NC=C1C(OC(OC1=O)(C)C)=O | C14H12N2O4
